### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPowerSeries): introduce truncFinset to unify truncations

### PR DESCRIPTION
**Pull request by BryceT233**
Resolves the TODO in MvPowerSeries/Trunc.lean by implementing a general truncation map `truncFinset`, which paves the way for unifying strict and non-strict truncations and defining other truncations

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 1]
```diff
@@ -65,18 +64,60 @@ open Finsupp
...
 
-/-- Auxiliary definition for the truncation function. -/
-def truncFun (φ : MvPowerSeries σ R) : MvPolynomial σ R :=
-  ∑ m ∈ Finset.Iio n, MvPolynomial.monomial m (coeff m φ)
+theorem truncFinset_apply (p : MvPowerSeries σ R) :
+    truncFinset R s p = ∑ x ∈ s, MvPolynomial.monomial x (p.coeff x) := by rfl
 
-theorem coeff_truncFun (m : σ →₀ ℕ) (φ : MvPowerSeries σ R) :
-    (truncFun n φ).coeff m = if m < n then coeff m φ else 0 := by
+theorem truncFinset_coeff {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∈ s) :
```
Comment (wwylele) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
theorem coeff_truncFinset {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∈ s) :
```
Most if not all MvPowerSeries API treat `coeff` as function instead of projection in naming, so it should appear first

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 2]
```diff
@@ -65,18 +64,60 @@ open Finsupp
...
+    (truncFinset R s p).coeff x = p.coeff x := by
   classical
-  simp [truncFun, MvPolynomial.coeff_sum]
+  simp [truncFinset_apply, MvPolynomial.coeff_sum]
+  aesop
+
+theorem truncFinset_coeff_eq_zero {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∉ s) :
```
Comment (wwylele) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
theorem coeff_truncFinset_eq_zero {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∉ s) :
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean (hunk 1 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Trunc.lean]: suggestions applied, thx!

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 3]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
-variable [DecidableEq σ] [CommSemiring R] (n : σ →₀ ℕ)
+variable [CommSemiring R] {s : Finset (σ →₀ ℕ)}
 
-/-- Auxiliary definition for the truncation function. -/
-def truncFun (φ : MvPowerSeries σ R) : MvPolynomial σ R :=
-  ∑ m ∈ Finset.Iio n, MvPolynomial.monomial m (coeff m φ)
+variable (R s) in
+/-- Restrict the support of a multivariate power series to a finite set of monomials and
+obtain a multivariate polynomial. -/
+def truncFinset : MvPowerSeries σ R →ₗ[R] MvPolynomial σ R where
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
/-- Restrict the support of a multivariate power series to a finite set of monomials and
obtain a multivariate polynomial. -/
def truncFinset (R : Type*) [CommSemiring R] (s : Finset (σ →₀ ℕ)) :
    MvPowerSeries σ R →ₗ[R] MvPolynomial σ R where
```
We generally prefer to repeat the key arguments to definitions, because it makes the code more readable.

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 4]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+    ext; simp [MvPolynomial.coeff_sum]
+
+theorem truncFinset_apply (p : MvPowerSeries σ R) :
+    truncFinset R s p = ∑ x ∈ s, MvPolynomial.monomial x (p.coeff x) := by rfl
+
+theorem coeff_truncFinset {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∈ s) :
+    (truncFinset R s p).coeff x = p.coeff x := by
+  classical
+  simp [truncFinset_apply, MvPolynomial.coeff_sum]
+  aesop
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
  simp [truncFinset_apply, MvPolynomial.coeff_sum, h]
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 5]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+
+theorem coeff_truncFinset_eq_zero {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∉ s) :
+    (truncFinset R s p).coeff x = 0 := by
+  classical
+  simp [truncFinset_apply, MvPolynomial.coeff_sum]
+  aesop
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
  simp [truncFinset_apply, MvPolynomial.coeff_sum, h]
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 6]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
-theorem coeff_truncFun (m : σ →₀ ℕ) (φ : MvPowerSeries σ R) :
-    (truncFun n φ).coeff m = if m < n then coeff m φ else 0 := by
+theorem truncFinset_monomial {x : σ →₀ ℕ} (r : R) (h : x ∈ s) :
+    truncFinset R s (monomial x r) = MvPolynomial.monomial x r := by
   classical
-  simp [truncFun, MvPolynomial.coeff_sum]
+  ext y; by_cases hy : y ∈ s
+  · rw [coeff_truncFinset _ hy, coeff_monomial, MvPolynomial.coeff_monomial]
+    simp [eq_comm]
+  rw [coeff_truncFinset_eq_zero _ hy, MvPolynomial.coeff_monomial, if_neg (by aesop)]
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
  ext
  grind [coeff_monomial, MvPolynomial.coeff_monomial]
```
If you add `@[grind =]` to `coeff_truncFinset_eq_zero` and `coeff_truncFinset`.

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 7]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+
+theorem truncFinset_monomial_eq_zero {x : σ →₀ ℕ} (r : R) (h : x ∉ s) :
+    truncFinset R s (monomial x r) = 0 := by
+  classical
+  ext; simp [truncFinset, MvPolynomial.coeff_sum, coeff_monomial]
+  aesop
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
  grind
```
We are trying to phase out `aesop` for `grind` where the goal is clearly in scope for `grind`.

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 8]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+
+theorem truncFinset_one (h : 0 ∈ s) : truncFinset R s (1 : MvPowerSeries σ R) = 1 :=
+  truncFinset_C h 1
+
+theorem truncFinset_truncFinset {t : Finset (σ →₀ ℕ)} (h : s ⊆ t) (p : MvPowerSeries σ R) :
+    truncFinset R s (truncFinset R t p) = truncFinset R s p := by
+  ext x; by_cases hx : x ∈ s
+  · rw [coeff_truncFinset _ hx, coeff_truncFinset _ hx, MvPolynomial.coeff_coe,
+      coeff_truncFinset _ (h hx)]
+  rw [coeff_truncFinset_eq_zero _ hx, coeff_truncFinset_eq_zero _ hx]
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
  ext x
  by_cases x ∈ s <;> grind [MvPolynomial.coeff_coe]
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 9]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+
+theorem truncFinset_map [CommSemiring S] (f : R →+* S) (p : MvPowerSeries σ R) :
+    truncFinset S s (map f p) = MvPolynomial.map f (truncFinset R s p) := by
+  ext x; by_cases hx : x ∈ s
+  · simp [coeff_map, MvPolynomial.coeff_map, coeff_truncFinset _ hx]
+  simp [MvPolynomial.coeff_map, coeff_truncFinset_eq_zero _ hx]
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
  ext x
  by_cases x ∈ s <;> grind [coeff_map, MvPolynomial.coeff_map]
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 10]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+  toFun p := ∑ x ∈ s, MvPolynomial.monomial x (p.coeff x)
+  map_add' _ _ := by simp [Finset.sum_add_distrib]
+  map_smul' _ _ := by
+    classical
+    ext; simp [MvPolynomial.coeff_sum]
+
+theorem truncFinset_apply (p : MvPowerSeries σ R) :
+    truncFinset R s p = ∑ x ∈ s, MvPolynomial.monomial x (p.coeff x) := by rfl
+
+theorem coeff_truncFinset {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∈ s) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
@[grind =]
theorem coeff_truncFinset {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∈ s) :
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 11]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+    (truncFinset R s p).coeff x = p.coeff x := by
+  classical
+  simp [truncFinset_apply, MvPolynomial.coeff_sum]
+  aesop
+
+theorem coeff_truncFinset_eq_zero {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∉ s) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean:89]:
```suggestion
@[grind =]
theorem coeff_truncFinset_eq_zero {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∉ s) :
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 12]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+      coeff_truncFinset _ (h hx)]
+  rw [coeff_truncFinset_eq_zero _ hx, coeff_truncFinset_eq_zero _ hx]
+
+theorem truncFinset_map [CommSemiring S] (f : R →+* S) (p : MvPowerSeries σ R) :
+    truncFinset S s (map f p) = MvPolynomial.map f (truncFinset R s p) := by
+  ext x; by_cases hx : x ∈ s
+  · simp [coeff_map, MvPolynomial.coeff_map, coeff_truncFinset _ hx]
+  simp [MvPolynomial.coeff_map, coeff_truncFinset_eq_zero _ hx]
+
+theorem coeff_mul_eq_coeff_truncFinset_mul_truncFinset (hs : IsLowerSet (SetLike.coe s))
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
theorem coeff_mul_eq_coeff_truncFinset_mul_truncFinset (hs : IsLowerSet (s : Set (σ →₀ ℕ)))
```
Could you please also turn the equality (and the name) in this lemma around? We try to follow the rule to have the more complicated version on the left hand side of the equality.

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean (hunk 9 above)
Comment (chrisflav) [reply Mathlib/RingTheory/MvPowerSeries/Trunc.lean]: Similar `grind` golfs can be applied on other places, could you please do that?

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 13]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
+section TruncLT
+
+variable [DecidableEq σ] [CommSemiring R] (n : σ →₀ ℕ)
 
 variable (R) in
 /-- The `n`th truncation of a multivariate formal power series to a multivariate polynomial
 
 If `f : MvPowerSeries σ R` and `n : σ →₀ ℕ` is a (finitely-supported) function from `σ`
-to the naturals, then `trunc' R n f` is the multivariable power series obtained from `f`
+to the naturals, then `trunc' R n f` is the multivariable polynomial obtained from `f`
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]:
```suggestion
to the naturals, then `trunc R n f` is the multivariable polynomial obtained from `f`
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 14]
```diff
@@ -65,67 +64,123 @@ open Finsupp
...
-    simp [coeff_truncFun]
-  map_add' := by
-    classical
-    intro x y
-    ext m
-    simp only [coeff_truncFun, MvPolynomial.coeff_add, ite_add_ite, ← map_add, add_zero]
+def trunc : MvPowerSeries σ R →ₗ[R] MvPolynomial σ R := truncFinset R (Finset.Iio n)
 
 theorem coeff_trunc (m : σ →₀ ℕ) (φ : MvPowerSeries σ R) :
     (trunc R n φ).coeff m = if m < n then coeff m φ else 0 := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]: Could you please add the analogue for `truncFinset`? I.e.
```
lemma coeff_truncFinset [DecidableEq σ] {x : σ →₀ ℕ} (p : MvPowerSeries σ R) :
    (truncFinset R s p).coeff x = if x ∈ s then p.coeff x else 0 := by
  simp [truncFinset_apply, MvPolynomial.coeff_sum]
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 15]
```diff
@@ -245,22 +242,16 @@ theorem trunc'_C_mul (n : σ →₀ ℕ) (a : R) (p : MvPowerSeries σ R) :
...
 @[simp]
 theorem trunc'_map [CommSemiring S] (n : σ →₀ ℕ) (f : R →+* S) (p : MvPowerSeries σ R) :
-    trunc' S n (map f p) = MvPolynomial.map f (trunc' R n p) := by
-  ext m; simp [coeff_trunc', MvPolynomial.coeff_map, apply_ite f]
+    trunc' S n (map f p) = MvPolynomial.map f (trunc' R n p) := truncFinset_map f p
 
 section
 
 theorem totalDegree_trunc' {n : σ →₀ ℕ} (φ : MvPowerSeries σ R) :
     (trunc' R n φ).totalDegree ≤ n.degree := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean:252]: Could you please add
```
lemma totalDegree_truncFinset (p : MvPowerSeries σ R) :
    (truncFinset R s p).totalDegree ≤ s.sum fun s => s.sum fun _ e ↦ e :=
  sorry
```
and deduce this one from it?

**Review by chrisflav — COMMENTED** [review]
Thanks a lot for contributing to mathlib and working on this TODO! This already looks quite nice, you can find some suggestions below. When the PR is ready for review again, please remove the `awaiting-author` label and feel free to ping me for another review round.

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean (hunk 7 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Trunc.lean]: Ah, I see. I wasn't aware of the shift from aesop to grind. Thanks for pointing that out—I'll make sure to use grind in the future.

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean (hunk 14 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Trunc.lean]: added a 'coeff_truncFinset'` for this!

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean (hunk 15 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Trunc.lean:252]: I split it into two lemmas: `totalDegree_truncFinset` and `Iic_sup_degree`(which goes to Weight.lean)

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 16]
```diff
@@ -134,109 +188,49 @@ theorem trunc_C_mul (n : σ →₀ ℕ) (a : R) (p : MvPowerSeries σ R) :
...
-  MvPolynomial.ext _ _ fun m ↦ by
-    classical
-    rw [coeff_trunc', coeff_C, MvPolynomial.coeff_C]
-    split_ifs with H <;> first | rfl | try simp_all
-    exfalso; apply H; subst m; exact zero_le n
+theorem trunc'_C (n : σ →₀ ℕ) (a : R) : trunc' R n (C a) = MvPolynomial.C a :=
+  truncFinset_C (by simp) a
 
 /-- Coefficients of the truncation of a product of two multivariate power series -/
-theorem coeff_mul_eq_coeff_trunc'_mul_trunc' (n : σ →₀ ℕ)
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean:212]: Please add a deprecation
```
@[deprecated (since := "date")]
alias oldname := newname
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 17]
```diff
@@ -46,86 +49,137 @@ public import Mathlib.Algebra.MvPolynomial.Degrees
...
+@[grind =]
+theorem coeff_truncFinset_eq_zero {x : σ →₀ ℕ} (p : MvPowerSeries σ R) (h : x ∉ s) :
+    (truncFinset R s p).coeff x = 0 := by
+  classical
+  simp [truncFinset_apply, MvPolynomial.coeff_sum, h]
 
-/-- Auxiliary definition for the truncation function. -/
-def truncFun (φ : MvPowerSeries σ R) : MvPolynomial σ R :=
-  ∑ m ∈ Finset.Iio n, MvPolynomial.monomial m (coeff m φ)
+lemma coeff_truncFinset' [DecidableEq σ] {x : σ →₀ ℕ} (p : MvPowerSeries σ R) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean]: We generally try to avoid naming things with a `'` suffix. A few options:
- rename `coeff_truncFinset` to `coeff_truncFinset_of_mem` and this one to `coeff_truncFinset`
- rename `coeff_truncFinset'` to `coeff_truncFinset_eq_if`

File: Mathlib/Data/Finsupp/Weight.lean [hunk 18]
```diff
@@ -322,4 +323,10 @@ theorem image_pow_eq_finsuppProd_image {α β : Type*} [CommMonoid β] {f : α 
   simp [-Function.comp_apply, Set.image_comp, show Multiplicative.toAdd '' s = s from
     Set.image_id _]
 
+theorem Iic_sup_degree {σ : Type*} [DecidableEq σ] {n : σ →₀ ℕ} :
+    (Finset.Iic n).sup degree = n.degree := by
+  refine le_antisymm (Finset.sup_le_iff.mpr fun _ h ↦ ?_) (Finset.le_sup (by simp))
+  rw [Finset.mem_Iic] at h
+  exact degree_mono h
```
Comment (chrisflav) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
theorem Finset.sup_Iic_of_monotone (α : Type*) [Preorder α] [LocallyFiniteOrderBot α] (a : α)
    {β : Type*} [SemilatticeSup β] [OrderBot β] (f : α → β) (hf : Monotone f) :
    (Finset.Iic a).sup f = f a :=
  le_antisymm (Finset.sup_le_iff.mpr fun _ h ↦ hf (by simpa using h)) (Finset.le_sup (by simp))
```
This lemma has nothing to do with `Finsupp.degree`. Could you please move it to `Mathlib.Order.Interval.Finset.Basic`?

**Comment by BryceT233** [comment]
Thanks again for the review, I have applied the suggestions. About the deprecation part, I kept the old result explicitly because of the swapped equality, please let me know if this looks good to you. @chrisflav

-awaiting-author

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 19]
```diff
@@ -458,6 +458,11 @@ def _root_.Equiv.IicFinsetSet (a : α) : Iic a ≃ Set.Iic a where
   toFun b := ⟨b.1, coe_Iic a ▸ mem_coe.2 b.2⟩
   invFun b := ⟨b.1, by rw [← mem_coe, coe_Iic a]; exact b.2⟩
 
+theorem sup_Iic_of_monotone {α : Type*} [Preorder α] [LocallyFiniteOrderBot α] (a : α)
+    {β : Type*} [SemilatticeSup β] [OrderBot β] (f : α → β) (hf : Monotone f) :
```
Comment (chrisflav) [inline Mathlib/Order/Interval/Finset/Basic.lean]: Could you please check which variables are already in scope here? At least `α` and its assumptions should already be there.

**Review by chrisflav — APPROVED** [review]
One last nitpick, then this is ready to go!

**Review by chrisflav — APPROVED** [review]
Thanks a lot!

maintainer merge
